data/rdb19/train.csv
rxn,smiles,ea
2602,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35],55.19075118843466
2711,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:20]([H:27])([H:28])[H:29].[O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34],70.61358121532248
218,[C:12](=[C:13]([N:14]([C:15](=[O:16])[H:21])[H:20])[H:19])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12](=[C:13]([N:14]([C:15](=[O:16])[H:21])[H:20])[H:19])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:17])([H:6])([H:7])[H:8],36.63426571839955
2849,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:16]([O:17])[H:18]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])([H:15])[O:17][O:16][H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],21.079999938316178
2917,[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5][C:18]([C:17]([C:16]([H:21])([H:22])[H:23])([H:24])[H:25])([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],23.913414922950324
2278,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:3])([H:4])[C:13]([C:10]([C:9]([C:8]([H:17])([H:18])[H:19])([H:20])[H:21])([C:11]([H:22])([H:23])[H:24])[C:12]([H:25])([H:26])[H:27])([O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:5])([H:6])[H:7],28.33194876130437
3021,[C:16]([H:17])([H:18])[H:19].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:16]([H:17])([H:18])[H:19].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],56.24695338026504
1701,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([H:5])[H:26])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],20.57043468975462
4157,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[C:20]([C:21]=[O:22])([H:26])([H:27])[H:28].[H:13][O:23][C:24](=[C:25]([H:30])[H:31])[H:29],66.8159253274207
3429,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])([O:21])[H:26],44.057254950283095
883,[C:19]([C:20]([C:21]([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])([H:32])[H:33])([H:29])([H:30])[H:31].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[N:7]([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:21]([C:20]([C:19]([H:29])([H:30])[H:31])([H:32])[H:33])([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38],22.9918096709298
